US05344938
5-Hydroxy-3-methoxycarbonyl-2-methoxymethyl-l-methylindole
3.1 g of 1,4-benzoquinone (28.7 mmol) was dissolved in 50 ml of acetic acid to which was subsequently added dropwise 2.28 g (14.3 mmol) of methyl 4-methoxy-3-methylamino-2-butenoate and the mixture was stirred for 5 hours at room temperature. After the solvent was distilled off under reduced pressure, the resulting residue was dissolved in ethyl acetate, washed with water and saturated sodium chloride aqueous solution and then dried over anhydrous magnesium sulfate. After anhydrous magnesium sulfate was filtered off and the solvent was distilled off under reduced pressure, the residue was purified by a silica gel column chromatography (eluent: hexane-ethyl acetate, 2:1) to obtain 0.78 g of the title compound with a yield of 22%.

reactant | 1,4-benzoquinone | 28.7 mmol, 3.1 g | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | methyl 4-methoxy-3-methylamino-2-butenoate | 14.3 mmol, 2.28 g | COCC(=CC(=O)OC)NC | C7H13NO3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-Hydroxy-3-methoxycarbonyl-2-methoxymethyl-l-methylindole | 0.78 g, yield of 22% | OC=1C=C2C(=C(N(C2=CC1)C)COC)C(=O)OC | C13H15NO4
